US07517899B2
To a solution of (2RS, 3RS)-4-nitro-benzoic acid 2-hydroxy-3-indol-1-yl-3-phenyl-propyl ester and triethylamine (1.4 mL, 10.5 mmol) in dichloromethane (20 mL) was added methanesulfonyl chloride (0.59 mL, 7.6 mmol) dropwise at 0-5° C. with stirring. After stirring for 30 minutes, the mixture was washed with a 1N aqueous solution of hydrochloric acid, 5% aqueous sodium bicarbonate, and water, dried over anhydrous sodium sulfate, filtered, and concentrated to give a light yellow fluffy solid. The crude product was recrystallized from dichloromethane with a minimum amount of diethyl ether to give (2RS,3RS)-4-nitro-benzoic acid-3-indol-1-yl-2-methanesulfonyloxy-3-phenyl-propyl ester as a yellow solid. MS (ESI) m/z 495 ([M+H]+).

reactant | (2RS, 3RS)-4-nitro-benzoic acid 2-hydroxy-3-indol-1-yl-3-phenyl-propyl ester | OC(COC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(C1=CC=CC=C1)N1C=CC2=CC=CC=C12 | C24H20N2O5
reactant | triethylamine | 10.5 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.6 mmol, 0.59 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (2RS,3RS)-4-nitro-benzoic acid-3-indol-1-yl-2-methanesulfonyloxy-3-phenyl-propyl ester | N1(C=CC2=CC=CC=C12)C(C(COC(C1=CC=C(C=C1)[N+](=O)[O-])=O)OS(=O)(=O)C)C1=CC=CC=C1 | C25H22N2O7S
